US05840911
1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-fluoro-phenyl)-imidazole dihydrochloride
Analogously to Example 2, 0.25 g of Raney nickel is added to a solution of 1.0 g (2.105 mmol) of 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-fluorophenyl)-imidazole dihydrochloride in 70 ml of methanol/water (1:1), and hydrogenation is carried out at room temperature and under normal pressure until the absorption of hydrogen has ceased. The reaction mixture is then filtered, the filtrate is acidified to pH 3 with 3N methanolic hydrochloric acid, and concentration is carried out by evaporation in vacuo. The crystalline residue is recrystallized from methanol/diethyl ether, yielding the title compound with a water content of 4.88%, m.p. 245°-250° C. (decomp.), 1H-NMR (D2O): δ=8.09 (d, 1H); 7.81 (d, 1H); 7.44-7.61 (m, 3H); 7.42 (s, 1H); 7.03-7.15 (m, 2H); 3.27-3.33 (m, 2H); 3.11-3.17 (m, 2H).

reactant | 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-fluorophenyl)-imidazole dihydrochloride | 2.105 mmol, 1.0 g | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)F)N
catalyst | Raney nickel | 0.25 g | [Ni] | Ni
solvent | methanol water | 70 ml | CO.O
product | 1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-fluoro-phenyl)-imidazole dihydrochloride | Cl.Cl.C(N)(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)F)N | InChI=1S/C19H17FN6.2ClH/c20-12-6-4-11(5-7-12)17-10-26(19(23)24-17)25-16-9-8-13-14(16)2-1-3-15(13)18(21)22;;/h1-7,10H,8-9H2,(H3,21,22)(H2,23,24);2*1H
